US05332734
1.0 ml of ethyl acrylate was added to a solution of 9-aminofluorene (1.24 g) in ethanol (20 ml). The resultant mixture was stirred at 80° C. for 5 hours and, then, at room temperature for 36 hours. The residue obtained by condensing the reaction mixture was dissolved in methylene chloride and, then, washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by a silica gel column chromatography (eluting solution: methylene chloride-ether) to give 1.25 g of N-(9-fluorenyl)-β-alanine ethyl ester.

reactant | ethyl acrylate | 1.0 ml | C(C=C)(=O)OCC | C5H8O2
reactant | 9-aminofluorene | 1.24 g | NC1C2=CC=CC=C2C=2C=CC=CC12 | C13H11N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(9-fluorenyl)-β-alanine ethyl ester | 1.25 g | C(C)OC(CCNC1C2=CC=CC=C2C=2C=CC=CC12)=O | C18H19NO2
